US07001897B2
To a solution of 1-(4-cyano-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine (1.12 g, 4.32 mmol) (obtained as described in Reference Example 4(3)) in dimethylformamide (56 ml) was added potassium thioacetate (3.89 g, 27.0 mmol) at room temperature. The mixture was stirred in an oil bath (80° C.) for 4 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (2:1) as the eluant to afford 3-acetylthio-1-(4-cyano-1,3-thiazol-2-yl)azetidine (0.767 g, yield 75%) as a pale brown solid.

reactant | 1-(4-cyano-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine | 4.32 mmol, 1.12 g | C(#N)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C8H9N3O3S2
reactant | potassium thioacetate | 27.0 mmol, 3.89 g | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 56 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-(4-cyano-1,3-thiazol-2-yl)azetidine | 0.767 g, yield 75% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C#N | C9H9N3OS2
